US05710130
A) Preparation of Cbz-D-hPro-OH
D-hPro-OH (5.0 g, 38.7 mmol) was dissolved in tetrahydrofuran (100 mL) and water (30 mL). The pH of the solution was adjusted to 9.5 with 2N sodium hydroxide and benzyl chloroformate (5.5 mL, 38.7 mmol) was added dropwise and the pH maintained at 9.5 with 2N sodium hydroxide. The reaction was stirred for an additional 1 hour at room temperature. The organic solvent was evaporated in vacuo, diethyl ether (100 mL) and water (50 mL) was added to the residue. The aqueous layer separated, the pH of the solution was adjusted to 2.8 with 3N hydrochloric acid and ethyl acetate (150 mL) was added. The organic layer was separated and dried (MgSO4); the filtrate was concentrated in vacuo to give 9.6 g (95%) of a clear oil.

reactant | D-hPro-OH | 38.7 mmol, 5.0 g | N1[C@@H](C(=O)O)CCCC1 | C6H11NO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | benzyl chloroformate | 38.7 mmol, 5.5 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | Cbz-D-hPro-OH | 9.6 g, 95% | N1([C@@H](C(=O)O)CCCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
